US08975254B2
c) 2-chloro-6-fluoro-4-iodobenzonitrile
To a cooled (0° C.) solution of 4-amino-2-chloro-6-fluorobenzonitrile (3.55 g, 20.8 mmol), sulfuric acid (3.33 ml, 62.4 mmol), water (30 ml) and MeCN (100 ml) was added slowly a solution of sodium nitrite (1.58 g, 22.9 mmol) in water (10 ml). A solution of potassium iodide (6.91 g, 41.6 mmol) in water (10 ml) was added slowly while maintaining temperature of the reaction mixture below 10° C. After being stirred at RT for 2 h, the reaction was quenched by adding water (100 ml) and concentrating the mixture to about half of the original volume. The mixture was extracted with DCM (3×150 ml), and combined organic fractions were dried over Na2SO4 and evaporated to yield 4.77 g, (81%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 8.06 (dd, 1H), 8.08 (m, 1H).

reactant | 4-amino-2-chloro-6-fluorobenzonitrile | 20.8 mmol, 3.55 g | NC1=CC(=C(C#N)C(=C1)F)Cl | C7H4ClFN2
reactant | sulfuric acid | 62.4 mmol, 3.33 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 22.9 mmol, 1.58 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 41.6 mmol, 6.91 g | [I-].[K+]
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | MeCN | 100 ml | CC#N | C2H3N
product | 2-chloro-6-fluoro-4-iodobenzonitrile | 81% | ClC1=C(C#N)C(=CC(=C1)I)F | C7H2ClFIN
